US06235731B1
To a solution of 7.777 g (38.076 mM) of 5-thia-1,8b-diazaacenaphthylene-4-methanol in ethyl acetate (50 ml)-N,N-dimethylformamide (50 ml) was added 23 g of active manganese dioxide and the mixture was stirred at room temperature for 4 hours. The reaction mixture was filtered and the precipitate was washed with N,N-dimethylformamide. The pooled filtrate was distilled under reduced pressure to remove the solvent. The crude 5-thia-1,8b-diazaacenaphthylene-4-carbaldehyde thus obtained was not purified but used as it was in the next reaction. To a solution of 9.39 g (41.9 mM) of ethyl diethylphosphonoacetate in 50 ml of toluene was added 1.68 g (41.9 mM) of a 60% suspension of sodium hydride in liquid paraffin at room temperature and the mixture was stirred for 0.5 hour. This mixture was added to a solution of the above crude 5-thia-1,8b-diazaacenaphthylene-4-carbaldehyde in N,N-dimethylformamide (50 ml)-toluene (200 ml) under ice cooling and the mixture was stirred at room temperature for one hour. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The resulting crude ethyl 3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylate was not purified but used as it was in the next reaction. To a solution of the above crude ethyl 3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylate in 300 ml of ethanol was added 60 ml (120 mM) of 2N-aqueous solution of sodium hydroxide and the mixture was stirred at room temperature for 3 hours. To this reaction mixture was added concentrated hydrochloric acid (ca 10 ml) with stirring to bring the pH into the range of 4-5 and the resulting precipitate was recovered by filtration and rinsed serially with ethanol and diethyl ether to provide the title compound.

reactant | 5-thia-1,8b-diazaacenaphthylene-4-methanol | 38.076 mM, 7.777 g | N=1C=C2C=C(SC3=CC=CC1N23)CO | C10H8N2OS
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 23 g | [O-2].[O-2].[Mn+4]
product | 5-thia-1,8b-diazaacenaphthylene-4-carbaldehyde | N=1C=C2C=C(SC3=CC=CC1N23)C=O | C10H6N2OS
